US09062092B2
Compound 47a. (S)-1-{(S)-2-[(S)-2-((E)-4-{2-[(R)-1-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A solution of (E)-4-{2-[(R)-1-(tert-butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester (193 mg, 0.47 mmol) in 1,4-dioxane (10 mL) was treated with a solution of lithium hydroxide monohydrate (112 mg, 4.7 mmol) in water (5 mL). After stirring at 50° C. for 1 h, the volatiles were removed in vacuo. The residue was partitioned between water and diethyl ether. The aqueous layer was acidified to pH 2 by addition of hydrochloric acid then extracted with ethyl acetate (3×). The organics were combined and the volatiles were removed in vacuo. The residue was dissolved in dichloromethane (10 mL) and was treated with 4-dimethylaminopyridine (57 mg, 0.47 mmol), 2-methyl-6-nitrobenzoic anhydride (275 mg, 0.80 mmol), and triethylamine (0.197 mL, 1.41 mmol). After stirring for 30 min (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (203 mg, 0.47 mmol) was added. After stirring for 16 h, the reaction was quenched by addition of a sodium bicarbonate solution (10 mL), the aqueous layer was extracted with dichloromethane (2×), the organics were combined and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Biotage cartridge eluted with a continuous gradient of iso-hexanes/acetone 1:0 to 3:1 to afford the title compound (260 mg, 68%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 0.97-1.05 (m, 6H), 1.29 (d, J=6.9 Hz, 3H), 1.44 (br s, 9H), 1.55 (s, 3H), 1.57 (s, 3H), 1.68 (d, J=6.9 Hz, 3H), 1.71-2.00 (m, 4H), 2.02-2.30 (m, 3H), 2.80 (br s, 3H), 3.56 (br s, 1H), 3.78-3.83 (m, 1H), 4.75-4.82 (m, 1H), 4.93-5.01 (m, 2H), 5.35-5.45 (m, 1H), 6.65-6.82 (m, 2H), 7.36 (d, J=8.5 Hz, 1H), 7.72-7.83 (m, 2H), 7.98 (s, 1H), 8.21 (d, J=8.5 Hz, 1H). LCMS (m/z) 814.1 [M+H], Tr=3.97 min.

reactant | (E)-4-{2-[(R)-1-(tert-butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester | 0.47 mmol, 193 mg | COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N(C)C(=O)OC(C)(C)C)(C)C)=O | C24H32N2O4
reactant | lithium hydroxide monohydrate | 4.7 mmol, 112 mg | O.[OH-].[Li+]
reactant | 2-methyl-6-nitrobenzoic anhydride | 0.80 mmol, 275 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | triethylamine | 1.41 mmol, 0.197 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.47 mmol, 203 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)(Cl)Cl | C15H24Cl3N3O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 0.47 mmol, 57 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-1-{(S)-2-[(S)-2-((E)-4-{2-[(R)-1-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 260 mg, 68% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N(C)C(=O)OC(C)(C)C)(C)C)=O)=O)=O)(Cl)Cl | C38H52Cl3N5O8
